US08492372B2
N-({7-[(TRIFLUOROMETHYL)SULFONYL]-4H-1,3-BENZODIOXIN-2-YL}METHYL)ETHANAMINE
Preparation according to Example 9. 2-(bromomethyl)-7-[(trifluoromethyl)sulfonyl]-4H-1,3-benzodioxine (0.28 g, 0.76 mmol), ethanamine (70% in water, 2.0 ml, 25.2 mmol) and ACN (2.0 ml) was heated at 120° C. for 20 min. Purification by flash chromatography using EtOAc/MeOH (4:1) as eluent afforded the title compound (0.14 g, 52%). The amine was converted into hydrochloric acid salt and crystallized from EtOH/DEE. M.p. 169° C. MS m/z (rel. intensity, 70 eV) 325 (M+, 1), 239 (5), 106 (5), 77 (7), 58 (bp).

reactant | 2-(bromomethyl)-7-[(trifluoromethyl)sulfonyl]-4H-1,3-benzodioxine | 0.76 mmol, 0.28 g | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C(F)(F)F | C10H8BrF3O4S
reactant | ethanamine | 25.2 mmol, 2.0 ml | C(C)N | C2H7N
solvent | ACN | 2.0 ml | C(C)#N | C2H3N
product | N-({7-[(TRIFLUOROMETHYL)SULFONYL]-4H-1,3-BENZODIOXIN-2-YL}METHYL)ETHANAMINE | 0.14 g, 52% | FC(S(=O)(=O)C=1C=CC2=C(OC(OC2)CNCC)C1)(F)F | C12H14F3NO4S
